US07135469B2
Part A: 1-(4-Methoxy-phenyl)-3-trifluoromethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one (2.0 g, 6.43 mmol) was stirred in dry DMF (8 mL) at 0° C. NaH (60%, 0.35 g, 8.75 mmol, 1.4 eq) was added. Bromoacetic acid and t-butyl ester (1.0 mL, 6.77 mmol, 1.1 eq) were added dropwise. The mixture was stirred at 0° C. for 2 h and at rt overnight. The reaction was quenched with H2O, extracted with EtOAc, washed with brine, concentrated, and purified by silica gel chromatography (1:1 EtOAc:hexanes) to give pure [1-(4-methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-acetic acid tert-butyl ester (2.73 g, yield: 99%).

reactant | 1-(4-Methoxy-phenyl)-3-trifluoromethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one | 6.43 mmol, 2.0 g | COC1=CC=C(C=C1)N1N=C(C2=C1C(NCC2)=O)C(F)(F)F | C14H12F3N3O2
reactant | NaH | 8.75 mmol, 0.35 g, 1.4 eq | [H-].[Na+]
reactant | Bromoacetic acid | BrCC(=O)O | C2H3BrO2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | [1-(4-methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-acetic acid tert-butyl ester | 2.73 g, yield: 99% | C(C)(C)(C)OC(CN1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)C(F)(F)F)=O)=O | C20H22F3N3O4
